data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_581013_1,[C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][O:5][H:8])([O:6][H:9])[O:7][H:10]>>[C:1]([O:3][C:2]([H:11])([H:12])[H:13])([O:4][O:5][H:8])([O:6][H:9])[O:7][H:10],45.05010750000864
MR_345795_0,[C:1]([O:5][O:4]/[C:3]([O:6][C:2]([H:12])([H:13])[H:14])=[N:7]\[H:8])([H:9])([H:10])[H:11]>>[C:1]([O:5]/[C:3]([O:4][O:6][C:2]([H:12])([H:13])[H:14])=[N:7]\[H:8])([H:9])([H:10])[H:11],71.71321000003431
MR_290496_0,[C:1]([O:3][O:4][C:2](=[O:7])[H:9])([O:5][H:8])=[O:6]>>[C:1]([O:5][H:8])(=[O:6])[O:7][C:2]1([H:9])[O:3][O:4]1,64.06084750002194
MR_691322_1,[C:1]([C:4]([H:20])([H:21])[H:22])([N:6]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([O:9][H:11])/[N:10]=[C:7](\[C:5]([H:23])([H:24])[H:25])[N:8]([H:12])[H:13]>>[C:1](\[C:4]([H:20])([H:21])[H:22])([O:9][H:11])=[N:10]/[C:7]([C:5]([H:23])([H:24])[H:25])([N:6]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[N:8]([H:12])[H:13],49.10187499998031
MR_5434_0,[C:1]([C:2]([O:4][N:3]([H:6])[H:7])=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:4])[O:5][N:3]([H:6])[H:7])([H:8])([H:9])[H:10],49.64591749999784
MR_655397_2,[C:1](/[C:3](=[N:5]\[O:4][H:8])[H:13])(/[N:7]=[N:6]/[N:2]([H:9])[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:3]([N:5]([O:4][H:8])[H:9])([H:13])[N:7]1/[N:6]=[N:2]/[H:10],58.053162499994784
MR_4981_1,[C:1](/[C:3]([N:4]([H:7])[H:8])=[N:6]/[C:2]([H:13])([H:14])[H:15])([N:5]([H:9])[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@:3]([N:4]([H:7])[H:8])([N:6]([C:2]([H:13])([H:14])[H:15])[H:10])[N:5]1[H:9],50.79988999997354
MR_27703_0,[C:1]1([H:11])([H:12])[C:4]([N:7]([C:2]([H:15])([H:16])[H:17])[H:8])([H:10])[C:6]1(/[C:5](=[N:3]/[H:9])[H:13])[H:14]>>[C:1](/[C:4](=[N:7]\[C:2]([H:15])([H:16])[H:17])[H:10])(/[C:6](=[C:5](\[N:3]([H:8])[H:9])[H:13])[H:14])([H:11])[H:12],22.96587250001494
MR_6376_0,[C@@:1]([C:3]([H:14])([H:15])[H:16])([N:5]([C:2]([H:11])([H:12])[H:13])[C:6]([C:4]([H:17])([H:18])[H:19])=[O:8])([O:7][H:9])[H:10]>>[C@:1]([C:3]([H:14])([H:15])[H:16])([O:7][H:9])([O:8]/[C:6]([C:4]([H:17])([H:18])[H:19])=[N:5]/[C:2]([H:11])([H:12])[H:13])[H:10],59.55225999999087
MR_341875_1,[C:1]1([O:6][H:9])([O:7][H:10])[C:2]([C:5]([H:16])([H:17])[H:18])([O:8][H:11])[C:4]([H:14])([H:15])[C:3]1([H:12])[H:13]>>[C:1]([C:2]([C:4]([C:3]([H:10])([H:12])[H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[O:8][H:11])([O:6][H:9])=[O:7],63.06124000001319
MR_578821_1,[C:1]1([O:7][H:9])([H:11])[N:2]([H:10])/[C:3](=[N:8]\[H:12])[C:4](=[C:5]([H:13])[H:14])[O:6]1>>[C:1]([N:2](/[C:3]([C:4](=[C:5]([H:13])[H:14])[O:6][H:9])=[N:8]\[H:12])[H:10])(=[O:7])[H:11],47.45594249999826
MR_48424_0,[C@@:1]([C:2]([H:10])([H:11])[H:12])([C:4]([C:3]([H:13])([H:14])[H:15])=[C:5]([H:16])[H:17])([O:6][O:7][H:8])[H:9]>>[C@@:1]1([C:2]([H:10])([H:11])[H:12])([H:9])[C@:4]([C:3]([H:13])([H:14])[H:15])([O:6][O:7][H:8])[C:5]1([H:16])[H:17],72.56033500003568
MR_227808_1,[C:1]([N:3]([O:6][H:8])[H:9])(/[C:4]([N:5]([H:10])[H:11])=[N:7]/[C:2]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:1](=[C:4]([N:5]([H:10])[H:11])[N:7]([C:2]([H:14])([H:15])[H:16])[N:3]([O:6][H:8])[H:9])([H:12])[H:13],71.74521250006052
MR_140164_1,[C:1]([n:2]1[n:3]([H:8])[c:5]([H:9])[c:6]([H:10])[c:4]1=[O:7])([H:11])([H:12])[H:13]>>[C:1]([n:2]1[c:4](=[O:7])[n:3]([H:8])[c:5]([H:9])[c:6]1[H:10])([H:11])([H:12])[H:13],66.5727299999935
MR_248462_0,[C:1](/[C:4](=[C:6](\[C:2]([H:17])([H:18])[H:19])[H:11])[O:8][C:3]([N:5]([H:9])[H:10])=[C:7]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[C:6](\[C:2]([H:17])([H:18])[H:19])[H:11])[C:7]([C:3]([N:5]([H:9])[H:10])=[O:8])([H:15])[H:16])([H:12])([H:13])[H:14],58.66497499998388
MR_437907_1,[C:1]12([C:2]([H:8])([H:9])[O:6]1)[N:4]([C:3]([H:10])([H:11])[H:12])[C:5]2=[O:7]>>[C@@:1]12([C:2]([H:8])([H:9])[O:6]1)[N:4]([C:3]([H:10])([H:11])[H:12])[C:5]2=[O:7],59.59806749998222
MR_214823_0,[C:1]([C:2](=[C:4]([H:10])[H:11])[O:5][H:7])([N:3]([H:8])[H:9])=[O:6]>>[C:1]1([N:3]([H:8])[H:9])=[C:2]([O:5][H:7])[C:4]([H:10])([H:11])[O:6]1,70.45820999999265
MR_639520_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])(/[C:4]([N:6]([H:12])[H:13])=[N:8]/[N:5]([H:10])[H:11])[C:7](=[O:9])[H:14]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])=[C:4]([N:6]([H:12])[H:13])[N:8]([N:5]([H:10])[H:11])[C:7](=[O:9])[H:14],40.352642500026406
MR_231247_1,[C:1]1([H:14])([H:15])[N:2]([N:4]([H:9])[H:10])[C:6]([H:13])=[C:3]([N:5]([H:11])[H:12])[N:8]=[C:7]1[H:16]>>[C:1](=[C:7](/[N:8]=[C:3]([N:5]([H:11])[H:12])\[C:6](=[N:2]\[N:4]([H:9])[H:10])[H:13])[H:16])([H:14])[H:15],19.323862500007465
MR_77573_0,[C:1]([C:4]([C:3]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([O:6][C:2]([H:9])([H:10])[H:11])([H:7])[H:8]>>[C:1](=[C:4]([C:3]([H:12])([H:13])[H:14])[C:5]([O:6][C:2]([H:9])([H:10])[H:11])([H:15])[H:16])([H:7])[H:8],64.18760249998726
MR_675097_0,[N:1]([N:2]([C:3]([N:5]([H:12])[H:13])=[C:7]([H:16])[H:17])[H:9])([N:4]([H:10])[H:11])/[C:6](=[N:8]/[H:14])[H:15]>>[N:1](=[N:4]/[H:10])\[C:6]([N:2]([C:3]([N:5]([H:12])[H:13])=[C:7]([H:16])[H:17])[H:9])([N:8]([H:11])[H:14])[H:15],37.75792999997861
